US07253286B2
Ethyl(E)-3-[2-amino-4-(4-aminophenoxy)-3-pyridyl]-2-propenoate
Ethyl(E)-3-[2-amino-4-(4-nitrophenoxy)-3-pyridyl]-2-propenoate (350 mg), iron powder (700 mg), ammonium chloride (1.4 g), dimethylformamide (7 ml), ethanol (2 ml) and water (2 ml) were stirred at 100° C. for 20 minutes. The mixture was filtered with celite, and then water and ethyl acetate were added for extraction. The organic layer was washed 5 times with aqueous ammonium chloride solution and then dried over magnesium sulfate. The drying agent was filtered off and the solvent was distilled off under reduced pressure to obtain 230 mg of the target substance as a light yellow solid.

reactant | Ethyl(E)-3-[2-amino-4-(4-nitrophenoxy)-3-pyridyl]-2-propenoate | 350 mg | NC1=NC=CC(=C1/C=C/C(=O)OCC)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H15N3O5
reactant | ammonium chloride | 1.4 g | [Cl-].[NH4+]
reactant | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
reactant | ethanol | 2 ml | C(C)O | C2H6O
catalyst | iron | 700 mg | [Fe] | Fe
solvent | water | 2 ml | O | H2O
product | Ethyl(E)-3-[2-amino-4-(4-aminophenoxy)-3-pyridyl]-2-propenoate | NC1=NC=CC(=C1/C=C/C(=O)OCC)OC1=CC=C(C=C1)N | C16H17N3O3
